.suckt  2stage_pmos_input ibias in1 in2 out source_nmos source_pmos
M1 net_0 in1 net_1 net_1 pmos W=24e-6 L=1e-6
M2 net_2 in2 net_1 net_1 pmos W=24e-6 L=1e-6
M3 net_0 bias_n_2 source_nmos source_nmos nmos W=1e-6 L=1e-6
M4 net_4 bias_n_1 net_0 net_0 nmos W=24e-6 L=1e-6
M5 net_2 bias_n_2 source_nmos source_nmos nmos W=1e-6 L=1e-6
M6 outfirststage bias_n_1 net_2 net_2 nmos W=24e-6 L=1e-6
M7 net_6 net_6 source_pmos source_pmos pmos W=1e-6 L=1e-6
M8 net_4 net_4 net_6 net_6 pmos W=1e-6 L=1e-6
M9 net_7 net_6 source_pmos source_pmos pmos W=1e-6 L=1e-6
M10 outfirststage net_4 net_7 net_7 pmos W=1e-6 L=1e-6
M11 net_8 ibias source_pmos source_pmos pmos W=5e-6 L=1e-6
M12 net_1 bias_p_3 net_8 net_8 pmos W=1e-6 L=1e-6
M13 out ibias source_pmos source_pmos pmos W=5e-6 L=1e-6
M14 net_12 outfirststage source_nmos source_nmos nmos W=1e-6 L=1e-6
M15 out bias_n_1 net_12 net_12 nmos W=33e-6 L=1e-6
M16 bias_n_1 bias_n_1 source_nmos source_nmos nmos W=1e-6 L=1e-6
M17 bias_n_2 bias_n_2 source_nmos source_nmos nmos W=1e-6 L=1e-6
M18 bias_p_3 bias_p_3 source_pmos source_pmos pmos W=1e-6 L=15e-6
M19 ibias ibias source_pmos source_pmos pmos W=5e-6 L=1e-6
M20 bias_n_2 ibias source_pmos source_pmos pmos W=5e-6 L=1e-6
M21 bias_n_1 ibias source_pmos source_pmos pmos W=5e-6 L=1e-6
M22 bias_p_3 bias_n_2 source_nmos source_nmos nmos W=1e-6 L=1e-6
Cap_load_1 out source_nmos
Cap_compensation_1 outfirststage out
.end 2stage_pmos_input
